US03992389
1-Phenethyl-4-benzamido-1,2,5,6-tetrahydropyridine
4-Benzamido-1-phenethylpyridinium bromide (3.0 g.) in methanol (100 ml.) was treated with sodium borohydride (6.0 g.) in portions over 30 minutes. The solution was stirred during the addition and for 1 hour after. Water was then added to the warmed solution until crystallisation commenced to give the title compound (2.15 g.), m.p. 115°-7° C. (Found: C, 78.2; H, 7.3; N, 9.1 C20H22N2O requires C, 78.4; H, 7.2; N, 9.1%).

reactant | 4-Benzamido-1-phenethylpyridinium bromide | 3.0 g | [Br-].C(C1=CC=CC=C1)(=O)NC1=CC=[N+](C=C1)CCC1=CC=CC=C1
reactant | sodium borohydride | 6.0 g | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 1-Phenethyl-4-benzamido-1,2,5,6-tetrahydropyridine | 2.15 g | C(CC1=CC=CC=C1)N1CC=C(CC1)NC(C1=CC=CC=C1)=O | C20H22N2O
